US04839348
A mixture of 2-chloromethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (6 g) and triphenylphosphine (4 g) in CH3CN (60 ml) is heated to reflux temperature for six hours, then it is evaporated in vacuum and the residue crystallized from EtOH to give 6.5 g of [6-methyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-1,4-dihydropyridin-2-yl]methyltriphenylphosphonium chloride, m.p. 225°-227° C.

reactant | 2-chloromethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 6 g | ClCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H21ClN2O6
reactant | triphenylphosphine | 4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH3CN | 60 ml | CC#N | C2H3N
product | [6-methyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-1,4-dihydropyridin-2-yl]methyltriphenylphosphonium chloride | 6.5 g | [Cl-].CC1=C(C(C(=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | InChI=1S/C37H35N2O6P.ClH/c1-4-44-36(40)33-26(3)38-32(35(37(41)45-5-2)34(33)27-16-15-17-28(24-27)39(42)43)25-46(29-18-9-6-10-19-29,30-20-11-7-12-21-30)31-22-13-8-14-23-31;/h6-24,34H,4-5,25H2,1-3H3;1H
